US08957069B2
5-[2-(4-methoxyphenyl)morpholine-4-yl]-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one
By using 5-bromo-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one (488 mg, 1.72 mmol) synthesized in Reference Example 18 and 2-(4-methoxyphenyl)morpholine (500 mg, 2.59 mmol), the reaction was carried out in the same manner as Reference Example 59 to synthesize 224 mg of the title compound (yield 34%).

reactant | 5-bromo-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one | 1.72 mmol, 488 mg | BrC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1)C)C | C12H13BrO2
reactant | 2-(4-methoxyphenyl)morpholine | 2.59 mmol, 500 mg | COC1=CC=C(C=C1)C1CNCCO1 | C11H15NO2
product | 5-[2-(4-methoxyphenyl)morpholine-4-yl]-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one | 224 mg, yield 34% | COC1=CC=C(C=C1)C1CN(CCO1)C=1C(=C(C2=C(C(C(O2)(C)C)=O)C1)C)C | C23H27NO4
